US09233951B2
Stage 2: 3-(Pyridin-3-yl)-1,2-oxazole-5-carbonyl chloride
600 mg (3.16 mmol) of 3-(pyridin-3-yl)-1,2-oxazole-5-carboxylic acid were initially charged in dichloromethane, and three drops of DMF were added. 1.16 g (9.15 mmol) of oxalyl chloride were added dropwise under argon (vigorous evolution of gas). The reaction solution was stirred at room temperature and then the solvent was removed on a rotary evaporator. 30 ml of toluene were added to the residue. After the toluene had been removed on a rotary evaporator, the residue was converted further directly.

reactant | 3-(pyridin-3-yl)-1,2-oxazole-5-carboxylic acid | 3.16 mmol, 600 mg | N1=CC(=CC=C1)C1=NOC(=C1)C(=O)O | C9H6N2O3
reactant | oxalyl chloride | 9.15 mmol, 1.16 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMF | three drops | CN(C)C=O | C3H7NO
product | 3-(Pyridin-3-yl)-1,2-oxazole-5-carbonyl chloride | N1=CC(=CC=C1)C1=NOC(=C1)C(=O)Cl | C9H5ClN2O2
